US04487929
A mixture of 120.8 g (0.4 mol) of diethyl 2-methyl-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-propane-1,3-dioate and 150 ml of anhydrous hydrazine was heated under reflux for 64 hours. The excess hydrazine was removed by distillation and the residue was recrystallized from methanol to give 60.28 g (62%) of 4-methyl-4-[2-(tetrahydro-2-pyranyloxy)-ethyl]-pyrazolidine-3,5-dione having a melting point of 179°-180° C.

reactant | diethyl 2-methyl-2-[2-(tetrahydro-2-pyranyloxy)ethyl]-propane-1,3-dioate | 0.4 mol, 120.8 g | CC(C(=O)OCC)(C(=O)OCC)CCOC1OCCCC1 | C15H26O6
reactant | hydrazine | 150 ml | NN | H4N2
product | 4-methyl-4-[2-(tetrahydro-2-pyranyloxy)-ethyl]-pyrazolidine-3,5-dione | 60.28 g, 62% | CC1(C(NNC1=O)=O)CCOC1OCCCC1 | C11H18N2O4
